US07351719B2
194) (E)-N-[3-chloro-4-(2-diethylamino-ethyl)-phenyl]-3-(2-chloro-4-trifluoromethyl -phenyl)-acrylamide
Prepared in DMF analogously to Example 143 starting from (E)-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylic acid (Z37b) and 3-chloro-4-(2-diethylamino-ethyl)-phenylamine (Z44d). The reaction mixture was poured onto ice water, the precipitate was filtered off, washed with water and dried in a HV. The residue was triturated with ether, the precipitate was filtered off, washed with ether and dried in a HV.

reactant | (E)-3-(2-chloro-4-trifluoromethyl-phenyl)-acrylic acid | ClC1=C(C=CC(=C1)C(F)(F)F)/C=C/C(=O)O | C10H6ClF3O2
reactant | 3-chloro-4-(2-diethylamino-ethyl)-phenylamine | ClC=1C=C(C=CC1CCN(CC)CC)N | C12H19ClN2
solvent | DMF | CN(C)C=O | C3H7NO
product | (E)-N-[3-chloro-4-(2-diethylamino-ethyl)-phenyl]-3-(2-chloro-4-trifluoromethyl -phenyl)-acrylamide | ClC=1C=C(C=CC1CCN(CC)CC)NC(\C=C\C1=C(C=C(C=C1)C(F)(F)F)Cl)=O | C22H23Cl2F3N2O
